US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (1060.0 mg) was reacted with N-(4-bromophenyl)-N-((pyridin-3-yl)methyl)pyrimidin-2-amine (120.0 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyridin-3-ylmethyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (147.8 mg). Column chromatography (silica gel, eluent: chloroform→chloroform/ethyl acetate=1/1) and thin layer chromatography (chloroform/ethyl acetate=1/1) were used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 1060.0 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-bromophenyl)-N-((pyridin-3-yl)methyl)pyrimidin-2-amine | 120.0 mg | BrC1=CC=C(C=C1)N(C1=NC=CC=N1)CC=1C=NC=CC1 | C16H13BrN4
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyridin-3-ylmethyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 147.8 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)CC=1C=NC=CC1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C29H25Cl2N5O3
